US08541457B2
Synthesis of 2-(3,5-Dichlorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 3,5-dichlorobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 34% yield; m.p. 104-105° C.; 1H NMR (CDCl3, 300 MHz) δ 7.69 (d, J=1.9 Hz, 2H), 7.52 (t, J=1.9, 1H), 7.35-7.31 (m, 5H), 6.04 (t, J=5.6 Hz, 1H), 4.59 (d, J=5.6 Hz, 2H), 2.44 (s, 3H); MS (ES+) m/z 420 (M+1).

reactant | 3,5-dichlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(3,5-Dichlorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 34% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)C | C19H15Cl2N3O2S
